US07517884B2
A mixture of 9-benzyl-7-(4-(trifluoromethoxy)phenyl)-3-thia-7,9-diazabicyclo[3.3.1]nonane-6,8-dione (143 mg, 0.34 mmol), 20% Pd(OH)2/C (243 mg, 0.35 mmol Pd), methanol (10 mL), and 1N HCl (3 mL) were shaken under 60 psi of H2. After 16 h, more 20% Pd(OH)2/C (250 mg, 0.36 mmol Pd) was added, and the reaction was shaken under 90 psi of H2. After an additional 24 h, the reaction was filtered through Celite, concentrated, and then partitioned between ethyl acetate (50 mL) and sat'd NaHCO3 (50 mL). The organic extract was dried, filtered, concentrated, and purified by silica gel chromatography (2:3→0:1; hexanes:ethyl acetate) to give 7-(4-(trifluoromethoxy)phenyl)-3-thia-7,9-diazabicyclo[3.3.1]nonane-6,8-dione: MS (ESI): 333.4 (M+H).

reactant | 9-benzyl-7-(4-(trifluoromethoxy)phenyl)-3-thia-7,9-diazabicyclo[3.3.1]nonane-6,8-dione | 0.34 mmol, 143 mg | C(C1=CC=CC=C1)N1C2CSCC1C(N(C2=O)C2=CC=C(C=C2)OC(F)(F)F)=O | C20H17F3N2O3S
reactant | 4-(4-Trifluoromethyl-phenyl)-1,2,3,6-tetrahydro-pyridine | 1N, 3 mL | FC(C1=CC=C(C=C1)C=1CCNCC1)(F)F | C12H12F3N
catalyst | Pd(OH)2/C | 0.35 mmol, 243 mg | [OH-].[OH-].[Pd+2]
catalyst | Pd(OH)2/C | 0.36 mmol, 250 mg | [OH-].[OH-].[Pd+2]
solvent | methanol | 10 mL | CO | CH4O
product | 7-(4-(trifluoromethoxy)phenyl)-3-thia-7,9-diazabicyclo[3.3.1]nonane-6,8-dione | FC(OC1=CC=C(C=C1)N1C(C2CSCC(C1=O)N2)=O)(F)F | C13H11F3N2O3S
